US08461328B2
A mixture of trans 4-amino-cyclohexanecarbonitrile trifluoroacetic acid salt (6.36 g, 26.7 mmol), 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (8.21 g, 24.3 mmol) and diisopropylethylamine (12.5 mL, 73.0 mmol) in propan-2-ol (200 mL) was heated at reflux for 3 hours. The cooled mixture was filtered and the precipitate washed with propan-2-ol to afford 9.04 g (87%) of trans 4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanecarbonitrile as a bright yellow solid. LCMS (Method Q, ESI): RT=4.15 min, m+H=426.0; 1H NMR (400 MHz, CDCl3) δ: 9.11 (s, 1H), 9.07 (d, 1H), 8.20 (m, 2H), 7.63 (m, 2H), 7.53 (m, 2H), 6.67 (d, 1H), 4.06 (m, 1H), 2.66 (m, 1H), 2.24 (m, 4H), 1.83 (m, 2H), 1.58 (m, 2H).

reactant | trans 4-amino-cyclohexanecarbonitrile trifluoroacetic acid salt | 26.7 mmol, 6.36 g | FC(C(=O)O)(F)F.N[C@@H]1CC[C@H](CC1)C#N
reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 24.3 mmol, 8.21 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | diisopropylethylamine | 73.0 mmol, 12.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propan-2-ol | 200 mL | CC(C)O | C3H8O
product | trans 4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanecarbonitrile | 9.04 g, 87% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@@H]2CC[C@H](CC2)C#N)[N+](=O)[O-] | C20H19N5O4S
